US05208228
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-azido-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of 17-ethyl-1,14-dihydroxy-12-{2'-[4"-(o-nitrobenzenesulfonyl)-3"-hydroxycyclohexyl]-1'-methylvinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (87 mg) in dry dimethylformamide (1 ml) is added sodium azide (16.7 mg) in one portion. The reaction is heated at 80° C. under nitrogen atmosphere for 3 hr. The reaction mixture is cooled, poured into water (5 ml) and extracted with ethyl acetate. Normal work-up followed by preparative tlc on silica gel gives the title compound.

reactant | 17-ethyl-1,14-dihydroxy-12-{2'-[4"-(o-nitrobenzenesulfonyl)-3"-hydroxycyclohexyl]-1'-methylvinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 87 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])O)C)C)O)=O | C48H70N2O15S
reactant | sodium azide | 16.7 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-azido-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])O)C)C)O)=O | C42H66N4O11
